US04696990
Preparation of 6-Hydroxyhexyl Methacrylate
Methacrylate acid (43.0 g=0.5 mole) was dissolved in 50 mL methanol. Tetrabutylammonium hydroxide (25% in methanol, 519 gm=0.5 mole) was added to the latter solution. The solution was stirred for 30 minutes, and then freed of solvent on a rotary evaporator. The residue was dissolved in 100 mL of N,N-dimethylformamide (DMF) and a solution of 6-chloro-1-hexanol (68.3 gm+0.5 mole) in 200 mL DMF was added. This was stirred at 50° C. for 4 hours, the heat was discontinued, and the solution was stirred at room temperature overnight. An equal volume of H2O was combined and the solution was extracted with three portions of ethyl acetate. The combined ethyl acetate layers were back-extracted with three portions of H2O, dried over MgSO4, and the mixture evaporated to an amber oil. 1H NMR (CDCl3): δ (ppm) 4.1 (2H, t). Elemental Analysis: C10H18O3, mol. wt. 186. Calcd.: C, 61.5; H, 9.7; O, 25.8. Found: C, 61.7; H, 9.7.

reactant | Methacrylate | 0.5 mole, 43.0 g | C(C(=C)C)(=O)[O-]
reactant | Tetrabutylammonium hydroxide | 0.5 mole, 519 gm | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 6-chloro-1-hexanol | 0.5 mole, 68.3 gm | ClCCCCCCO | C6H13ClO
reactant | H2O | O | H2O
solvent | methanol | 50 mL | CO | CH4O
solvent | DMF | 200 mL | CN(C=O)C | C3H7NO
product | 6-Hydroxyhexyl Methacrylate | C(C(=C)C)(=O)OCCCCCCO | C10H18O3
